US07288563B2
Part B: Preparation of 5-oxo-6-propyl-3,3a,4,5-tetrahydro-1H-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester
A solution of allyl-hex-2-ynyl-carbamic acid tert-butyl ester (741 mg) in dichloromethane (50 mL) was added to dicobalt octacarbonyl (1.12 g) under an argon atmosphere. The resulting solution was stirred at room temperature for 1.5 h. After this time, N-methylmorpholine N-oxide (2.56 g) was added in portions during a 60 min period. Upon completion of addition, the reaction mixture was stirred for an additional 2.5 h. At the conclusion of this period, the mixture was filtered through silica gel, and the solid was washed with a 1:1 ethyl acetate-hexane solution (200 mL). The filtrate was concentrated under vacuum to yield a residue. The residue was purified by flash column chromatography to provide the title compound as a light brown oil (321 mg). MS (ES+) m/z 266.19 (M+H+).

reactant | allyl-hex-2-ynyl-carbamic acid tert-butyl ester | 741 mg | C(C)(C)(C)OC(N(CC#CCCC)CC=C)=O | C14H23NO2
reactant | N-methylmorpholine N-oxide | 2.56 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | dicobalt octacarbonyl | 1.12 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | 5-oxo-6-propyl-3,3a,4,5-tetrahydro-1H-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | 321 mg | C(C)(C)(C)OC(=O)N1CC=2C(C1)CC(C2CCC)=O | C15H23NO3
